US05585397
4-Morpholinesulfonyl Chloride
A solution of 4.6 g of sulfuryl chloride in acetonitrile was treated dropwise with 996 mg of morpholine at ambient temperature under an atmosphere of nitrogen. After complete addition, the mixture was refluxed for 16 h, cooled to room temperature, and concentrated in vacuo to yield the title product as a red oil. TLC: Rf=0.65 CH2Cl2. (1H)-NMR (CDCl3) consistent with structure.

reactant | sulfuryl chloride | 4.6 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | morpholine | 996 mg | N1CCOCC1 | C4H9NO
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-Morpholinesulfonyl Chloride | N1(CCOCC1)S(=O)(=O)Cl | C4H8ClNO3S
